US05439925
(d) Allyl 4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl -2-naphthylmethyloxycarbonyl)benzoate
In a manruer similar to Example 4(c), by reaction of 2.06 g (10 mmol) of 4-(allyloxycarbonyl)benzoic acid with 2.18 g (10 mmol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyimethanol, 2.8 g (70%) of allyl ester are obtained in the form of a translucent oil.

reactant | 4-(allyloxycarbonyl)benzoic acid | 10 mmol, 2.06 g | C(C=C)OC(=O)C1=CC=C(C(=O)O)C=C1 | C11H10O4
reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyimethanol | 10 mmol, 2.18 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)CO)C | C15H22O
product | Allyl 4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl -2-naphthylmethyloxycarbonyl)benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)COC(=O)C1=CC=C(C(=O)OCC=C)C=C1)C | C26H30O4
